US04400202
N-m-AMINOPHENYL-2,2-DIMETHYLSUCCINIMIDE (INTERMEDIATE)
One hundred and sixty three g. of N-m-nitrophenyl-2,2-dimethylsuccinimide, as prepared in Example I, was added portion wise at reflux temperature to a mixture of 115 g. of powdered iron, 7 ml. of concentrated HCl, 250 ml. of ethyl alcohol and 200 ml. of water. At completion of addition (approximately one hour), the mixture was allowed to cool to 70° C. and 7 g. of 50% sodium hydroxide was added and the iron oxide was removed by filtration through a Dicalite filter which was washed with several portions of hot ethyl alcohol. Stripping of the filtrate under vacuum yielded 106 g. of a product having a m.p. of 143°-145° C. A portion of the product was recrystallized to a m.p. of 147°-147.5° C. The product was identified as the title compound by analysis of infrared spectra.

reactant | N-m-nitrophenyl-2,2-dimethylsuccinimide | [N+](=O)([O-])C=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C12H12N2O4
reactant | HCl | Cl | ClH
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | N-m-AMINOPHENYL-2,2-DIMETHYLSUCCINIMIDE | NC=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C12H14N2O2
